US05239084
4 g of N-methoxy-N-methyl-4'-methyl-4-biphenylcarboxamide, 3.34 g of N-bromosuccinimide and 0.02 g of azaisobutyronitrile in 50 mL of carbon tetrachloride were heated to boiling under reflux for 18 hours. The reaction mixture was diluted with 50 mL of methylene chloride and washed twice with 50 mL of water each time and once with 50 mL of saturated sodium chloride solution. The organic phases were dried over magnesium sulphate and concentrated. The residue was recrystallized from ethyl acetate. There was obtained 4.1 g (78%) of 4'-bromomethyl-N-methoxy-N-methyl-4-biphenylcarboxamide as a solid with a m.p. of 105°-106° C.

reactant | N-methoxy-N-methyl-4'-methyl-4-biphenylcarboxamide | 4 g | CON(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C)C | C16H17NO2
reactant | N-bromosuccinimide | 3.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | azaisobutyronitrile | 0.02 g | C(N(C)C)#N | C3H6N2
product | 4'-bromomethyl-N-methoxy-N-methyl-4-biphenylcarboxamide | 4.1 g, 78% | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N(C)OC | C16H16BrNO2
